US04486434
2,3-Lutidine (321 g) was added with stirring to a solution of sodamide (351 g) in liquid ammonia (3 l). 1-Amino-3-chloropropane hydrochloride (429 g) was added to this mixture over 8 minutes with stirring. Any liquid ammonia lost through evaporation was replaced. After 2 hours the reaction was quenched by the addition of ammonium chloride (120 g) and the reaction mixture was left to stand overnight to allow substantially complete escape of ammonia through evaporation. The residue so obtained was diluted with water (2 l) and extracted with dichloromethane. The extracts were dried (Na2SO4), the dichloromethane removed by evaporation and the residue distilled in vacuo to give 2-(4-aminobutyl)-3-methylpyridine (306.6 g).

reactant | 2,3-Lutidine | 321 g | N1=C(C(=CC=C1)C)C | C7H9N
reactant | sodamide | 351 g | [NH2-].[Na+]
reactant | ammonia | 3 l | N | H3N
reactant | 1-Amino-3-chloropropane hydrochloride | 429 g | Cl.NCCCCl
solvent | water | 2 l | O | H2O
product | 2-(4-aminobutyl)-3-methylpyridine | 306.6 g | NCCCCC1=NC=CC=C1C | C10H16N2
